US06734181B2
(a) Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate
Potassium tert-butoxide (3.49 g, 35.1 mmol) was added to a solution of methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate (5.79 g, 31.9 mmol) and 18-crown-6 (0.41 g, 1.55 mmol) in tetrahydrofuran (130 ml) and the mixture was stirred at room temperature for 1 hour. After dropwise addition over 30 minutes of (1S,2S)-2-methylcyclopropylmethyl bromide (5.71 g, 38.3 mmol) to the reaction mixture at 50° C., the mixture was heated under reflux for 3 hours. Potassium tert-butoxide (0.36 g, 3.22 mmol) and (1S,2S)-2-methylcyclopropylmethyl bromide (0.48 g, 3.21 mmol) were further added to the mixture and this mixture was heated for 1 hour. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to afford the desired compound (8.26 g, 100%) as a pale brown oil.

reactant | Potassium tert-butoxide | 35.1 mmol, 3.49 g | CC(C)([O-])C.[K+]
reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | 31.9 mmol, 5.79 g | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | (1S,2S)-2-methylcyclopropylmethyl bromide | 38.3 mmol, 5.71 g | C[C@@H]1[C@H](C1)CBr | C5H9Br
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 1.55 mmol, 0.41 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | Potassium tert-butoxide | 3.22 mmol, 0.36 g | CC(C)([O-])C.[K+]
catalyst | (1S,2S)-2-methylcyclopropylmethyl bromide | 3.21 mmol, 0.48 g | C[C@@H]1[C@H](C1)CBr | C5H9Br
product | Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 8.26 g, 100% | C(=O)C1=C(N(C(=C1C)C)C[C@@H]1[C@H](C1)C)C(=O)OC | C14H19NO3
